US04874768
1,1-Diethyl-3-(1,6-dimethyl-2-methylthio-8α-ergolinyl)urea
A solution is prepared from 354 mg of 1,1-diethyl-3-(1,6-dimethyl-8α-ergolinyl)urea (1 mmol) in 20 ml of THF and, at room temperature under nitrogen, 392 mg of dimethylmethylthiosulfonium tetrafluoroborate (2 mmol) and 0.24 ml of 50% strength tetrafluoroboric acid are added thereto. After 30 minutes of agitation at room temperature, the mixture is distributed between methylene chloride and bicarbonate solution, the organic phases are combined, dried with sodium sulfate, and evaporated. The crude product is chromatographed with methylene chloride on silica gel yielding, after crystallization, 276 mg (69% of theory). [α]D =+11° (0.5% in chloroform).

reactant | 1,1-diethyl-3-(1,6-dimethyl-8α-ergolinyl)urea | 1 mmol, 354 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C)C)CC | C21H30N4O
reactant | dimethylmethylthiosulfonium tetrafluoroborate | 2 mmol, 392 mg | F[B-](F)(F)F.C[S+](SC)C
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | bicarbonate | C([O-])(O)=O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,1-Diethyl-3-(1,6-dimethyl-2-methylthio-8α-ergolinyl)urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C)SC)C)CC | C22H32N4OS
